US04568376
2-Methyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran
A dry, 500-ml, three-neck, round-bottom flask equipped with a mechanical stirrer, addition funnel and a reflux condenser was charged with 100 ml of ethanol. To the stirred solvent were added 3.5 g of sodium. After all the metal had dissolved, a solution of 13.0 g of ethyl L-(+)-lactate and 18.5 g of m-trifluoromethylphenylacetonitrile in 30 ml of ethanol was added dropwise to the reaction mixture. The mixture became a deep red and after the addition was complete, the mixture was heated at reflux overnight (about 18 hours). The mixture was then cooled to room temperature and added to 300 ml of water and the resulting mixture was acidified (pH about 1) with 10% hydrochloric acid. The mixture was then extracted with ether (three times) and the organic extracts were washed (two times) with saturated aqueous sodium bicarbonate, dried over magnesium sulfate and concentrated in vacuo to yield a thick oil. This oil was taken up in a mixture of ether/petroleum ether and the desired compound crystallized as a yellow powder. Two crops of crystals were collected to afford a total of 4.7 g of the title compound.

reactant | sodium | 3.5 g | [Na] | Na
reactant | ethyl L-(+)-lactate | 13.0 g | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | m-trifluoromethylphenylacetonitrile | 18.5 g | FC(C=1C=C(C=CC1)CC#N)(F)F | C9H6F3N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 2-Methyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran | 4.7 g | CC1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N | C12H10F3NO2
